US09193710B2
Tert-butyl 4-trifluoromethyl-2-nitrophenylcarbamate
The title compound was prepared from the commercially available 4-trifluoromethyl-2-nitroaniline [CAS-No. 400-98-6] (2.0 g, 10 mmol) and Boc2O (2.5 g, 11 mmol) according to the general procedure A. Obtained as a yellow solid (1.8 g, 60%), MS (EI) 307 [(M+1)+] and 251{[(M-C(CH3)3]+}.

reactant | 4-trifluoromethyl-2-nitroaniline | 10 mmol, 2.0 g | FC(C1=CC(=C(N)C=C1)[N+](=O)[O-])(F)F | C7H5F3N2O2
reactant | Boc2O | 11 mmol, 2.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | Tert-butyl 4-trifluoromethyl-2-nitrophenylcarbamate | FC(C1=CC(=C(C=C1)NC(OC(C)(C)C)=O)[N+](=O)[O-])(F)F | C12H13F3N2O4
